US08461175B2
4-{[7-cyano-5-(2,6-difluorophenyl)-1H-pyrazolo[4,3-c]isoquinolin-3-yl]amino}piperidine-1-sulphonamide
306 mg of 4-{[7-cyano-5-(2,6-difluorophenyl)-2-{[2-(trimethylsilyl)ethoxy]methyl}-2H-pyrazolo[4,3-c]isoquinolin-3-yl]amino}piperidine-1-sulphonamide are introduced into 20 ml of DCM. After cooling to 0° C. using an ice bath, 1.5 ml of TFA are added and the mixture is stirred at RT for 16 h. It is concentrated under RP and the solid obtained is taken up in 30 ml of water, neutralized with 2 ml of 7.5M aqueous ammonia solution. It is extracted with ethyl acetate, dried over MgSO4, filtered and concentrated under RP. The product is purified by flash chromatography on silica gel (15-40 μm), eluting with a DCM/methanol/NH4OH mixture (92.5/7.5/0.75 by volume). This gives 8 mg of 4-{[7-cyano-5-(2,6-difluorophenyl)-1H-pyrazolo[4,3-c]isoquinolin-3-yl]amino}piperidine-1-sulphonamide. 1H NMR: 1.61-1.73 (m, 2 H) 2.09 (m, 2 H) 2.63-2.72 (m, 2 H) 3.47 (m, 2 H) 3.67-3.76 (m, 1 H) 6.13 (d, J=7.0 Hz, 1 H) 6.70 (s, 2 H) 7.34 (t, J=7.8 Hz, 2 H) 7.65-7.74 (m, 1 H) 8.18 (broad s, 1 H) 8.28 (broad d, J=8.6 Hz, 1 H) 8.56 (d, J=8.6 Hz, 1 H) 13.05 (s, 1 H).

reactant | 4-{[7-cyano-5-(2,6-difluorophenyl)-2-{[2-(trimethylsilyl)ethoxy]methyl}-2H-pyrazolo[4,3-c]isoquinolin-3-yl]amino}piperidine-1-sulphonamide | 306 mg | C(#N)C=1C=CC=2C=3C(N=C(C2C1)C1=C(C=CC=C1F)F)=C(N(N3)COCC[Si](C)(C)C)NC3CCN(CC3)S(=O)(=O)N | C28H33F2N7O3SSi
reactant | DCM | 20 ml | C(Cl)Cl | CH2Cl2
reactant | TFA | 1.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | ammonia | 7.5M, 2 ml | N | H3N
solvent | water | 30 ml | O | H2O
product | 4-{[7-cyano-5-(2,6-difluorophenyl)-1H-pyrazolo[4,3-c]isoquinolin-3-yl]amino}piperidine-1-sulphonamide | C(#N)C=1C=CC=2C3=C(N=C(C2C1)C1=C(C=CC=C1F)F)C(=NN3)NC3CCN(CC3)S(=O)(=O)N | C22H19F2N7O2S
